Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Repeat low transverse cesarean section
Endoscopic retrograde cholangiopancreatography (ERCP) with 
spincterotomy
Right upper quadrant ultrasound
 
History of Present Illness:
___ G2 P1 at ___ ___ transferred from ___ for 
further management of gallstone pancreatitis.  Patient reports 
developing new onset RUQ pain and N/V last week.  She was 
admitted to ___ on ___ and diagnosed with 
cholelithiasis. Lab work at that time was suspicious for 
gallstone pancreatitis. An MRCP performed during that admission 
revealed cholelithiasis, but no evidence of cholecystitis or CBD 
stone. She was medically managed and discharged home on ___ 
when her pain improved. She reports recurrence of sharp RUQ pain 
last night that woke her up from sleep. She was re-evaluated in 
___ and found to have elevated amylase/lipase, again 
consistent with gallstone pancreatitis. 

She reports intermittent non painful ctxns. +AFM. No LOF/VB. 
Currently has mild RUQ pain. Dilaudid significantly improves 
pain. ROS otherwise negative.  

PNC:
1. ___ of ___ 
2. Labs:   O+ /Ab neg /RPRNR/RI/HepBSAg  /HIV unk  /GBS unk (per
pt was collected ___
3. Declined aneuploidy screening
4. Nl FFS
5. Elevated GLT, with normal GTT 

 
Past Medical History:
POBHx: G2P1
C/S at 39w4d in ___ for arrest of dilation, IOL for PEC. 8#1 

PGynHx:
Hx of LSIL, Paps neg since. No hx of STI

PMHx: GERD 
PSHx: Breast reduction, C/S x 1 

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Vital signs: 97.8, 79, 18, 123/81
General: NAD
Abdomen: soft,gravid, mild RUQ TTP, no rebound/guarding
FHT: 140, mod var, +accels, no decels 
TOCO: 1 ctxn in 20 mins
SVE deferred

Bio: ___, AFI 8.9, vertex 

 
Pertinent Results:
Admission Labs ___ at 8:14pm):
WBC-10.2 RBC-4.28 HGB-11.8* HCT-35.5* MCV-83 MCH-27.6 MCHC-33.4 
RDW-15.0 PLT COUNT-237
NEUTS-74.2* ___ MONOS-3.0 EOS-0.6 BASOS-0.3
ALT(SGPT)-70* AST(SGOT)-81* ALK PHOS-147* AMYLASE-80 TOT 
BILI-1.0, LIPASE-45

Follow-up labs (s/p ERCP on ___ ___:

___ 07:10AM ALT-66* AST-73* AlkPhos-145* Amylase-76 
TotBili-1.3
___ 05:24AM ALT-65* AST-68* AlkPhos-177* Amylase-2294* 
TotBili-2.3*
___ 06:00AM ALT-50* AST-52* Amylase-531* TotBili-2.1*
___ 05:35AM ALT-52* AST-56* AlkPhos-146* TotBili-1.2

___ 07:10AM Lipase-53
___ 05:24AM Lipase-5765*
___ 06:00AM Lipase-520*
___ 05:35AM Lipase-77*

___ 07:10AM BLOOD WBC-7.4 RBC-3.84* Hgb-11.0* Hct-31.8* Plt 
___
___ 05:24AM BLOOD WBC-7.3 RBC-3.85* Hgb-10.8* Hct-31.7* Plt 
___
___ 06:00AM BLOOD WBC-7.6 RBC-3.48* Hgb-9.7* Hct-28.8* Plt 
___
___ 05:35AM BLOOD WBC-10.9 RBC-3.59* Hgb-10.0* Hct-29.5* 
Plt ___

___ 06:00AM BLOOD Albumin-2.8* Calcium-8.3* Phos-4.3 
Mg-1.4* UricAcd-6.4*
 
Brief Hospital Course:
Ms. ___ was transferred to ___ for observation and treatment 
of her right upper quadrant pain.  Her pancreatic enzymes were 
normal.  Repeat RUQ ultrasound was consistent with gallstones 
without signs of infection or CBD stone.  She continued however 
to have nausea/vomiting and poor pain control.  Repeat labs 
confirmed progression to pancreatitis.  She was taken to labor 
and delivery for repeat c-section on hospital day 2. Her 
delivery at 37 weeks 2 days EGA was uncomplicated. 
Post-operatively, she had significant pain medication 
requirements and thus was placed on a dilaudid PCA.

Post-operatively, the gastroenterology team was consulted, who 
recommended ERCP. On hospital day 3, post-partum day 1, she 
underwent an ERCP with spincterotomy under general anesthesia, 
in which sludge was extracted from the biliary tract. There were 
no stones in the biliary tract. Following her ERCP, her pain was 
managed with a dilaudid PCA and she remained NPO. She was 
started on Ciprofloxacin 400mg for a 5 day course, per GI 
recommendations. On hospital day 4, post-partum day 2, she was 
transitioned to oral pain medications and her diet was advanced. 
By hospital day 5, post-partum day 3, she was tolerating a 
regular diet. Her LFTs began trending down following her ERCP.
The patient was discharged in good condition, with plan to 
follow-up for an outpatient cholecystectomy. Her post-partum 
course was otherwise uncomplicated.

 
Medications on Admission:
Protonix 20mg
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gallstones

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were transferred to ___ for observation of your right 
upper quadrant pain.  You should follow-up with your OB provider 
for fever, shortness of breath, increased vaginal bleeding, 
bleeding or discharge from incision, unremitting headache, 
malaise
 
Followup Instructions:
___